US07893062B2
a) rac-(3S,4R)-1-Benzyl-3-nitro-4-o-tolyl-pyrrolidine (III-8)
A solution of N-(methoxymethyl)-N-(phenylmethyl)-N-(trimethylsilyl)methylamine (3.93 g, 16.55 mmol) in CH2Cl2 (60 ml) was added drop wise, over a 30 minutes period, to a stirred solution of 1-methyl-2-((E)-2-nitro-vinyl)-benzene (2.70 g, 16.55 mmol) and trifluoroacetic acid (0.13 ml, 1.65 mmol) in CH2Cl2 (30 ml) at 0° C. The ice bath was removed, and the solution was stirred at 25° C. for an additional 48 h. It was then concentrated and purification by flash chromatography (SiO2, EtOAc/H 1:6) afforded 1.01 g (21%) of the title compound as a light yellow oil. ES-MS m/e: 297.4 (M+H+).

reactant | N-(methoxymethyl)-N-(phenylmethyl)-N-(trimethylsilyl)methylamine | 16.55 mmol, 3.93 g | COCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C13H23NOSi
reactant | 1-methyl-2-((E)-2-nitro-vinyl)-benzene | 16.55 mmol, 2.70 g | CC1=C(C=CC=C1)\C=C\[N+](=O)[O-] | C9H9NO2
reactant | trifluoroacetic acid | 1.65 mmol, 0.13 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 60 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | rac-(3S,4R)-1-Benzyl-3-nitro-4-o-tolyl-pyrrolidine | 1.01 g, 21% | C(C1=CC=CC=C1)N1CC(C(C1)C1=C(C=CC=C1)C)[N+](=O)[O-] | C18H20N2O2
